US07067540B2
methyl 3-[4-(benzyloxy)-3-bromo-2-oxopyridin-1(2H)-yl]propanoate
3-bromo-4-[(2,4-difluorobenzyl)oxy]-6-methylpyridin-2(1H)-one (5.00 g, 17.85 mmol) and cesium fluoride (0.27 g, 1.78 mmol) were suspended in tetrahydrofuran (50 mL) followed by dropwise addition of tetramethylortho silicate (2.70 g, 17.85 mmol) at room temperature. After stirring for 10 minutes at room temperature, methyl acrylate (2.00 g, 23.20 mmol) was added dropwise and the reaction stirred at room temperature for 48 hours. The reaction mixture was filtered through a pad of Celite®. The filtrate was concentrated and the resulting residue subjected to chromatography (silica gel, ethyl acetate with 10% methanol/hexanes) to afford a white solid (6.10 g, 93%). 1H NMR (400 MHz, CDCl3) δ 7.42 (d, J=7.65 Hz, 1H), 7.41-7.29 (m, 5H), 6.04 (d, J=7.65 Hz, 1H), 5.20 (s, 2H), 4.17 (t, J=5.91 Hz, 2H), 3.63 (s, 3H), 2.85 (t, J=5.91 Hz, 2H). ES-HRMS m/z 366.0350 (M+H C16H16BrNO4 requires 366.0335).

reactant | 3-bromo-4-[(2,4-difluorobenzyl)oxy]-6-methylpyridin-2(1H)-one | 17.85 mmol, 5.00 g | BrC=1C(NC(=CC1OCC1=C(C=C(C=C1)F)F)C)=O | C13H10BrF2NO2
reactant | cesium fluoride | 1.78 mmol, 0.27 g | [F-].[Cs+]
reactant | tetramethylortho silicate | 17.85 mmol, 2.70 g | CO[Si](OC)(OC)OC | C4H12O4Si
reactant | methyl acrylate | 23.20 mmol, 2.00 g | C(C=C)(=O)OC | C4H6O2
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | methyl 3-[4-(benzyloxy)-3-bromo-2-oxopyridin-1(2H)-yl]propanoate | 6.10 g, 93% | C(C1=CC=CC=C1)OC1=C(C(N(C=C1)CCC(=O)OC)=O)Br | C16H16BrNO4
